US06143848
Synthesis of 2-iodo-2-phenylethanol (PIE) in an Organic Solvent
A 250 ml round bottom flask was charged with 21 ml HI (55% aqueous solution) and cooled to 0° C. Via an addition funnel, 20 grams of styrene oxide in 80 ml of diethylether were added over a one hour period. Diethylether (45 ml) was added and the water phase was separated. The leftover organic solution was dried with Na2SO4 and evaporated. Thirty-eight grams of a faint yellow solid were obtained having a melting point of 71-72° C.

reactant | HI | 21 ml | I | HI
reactant | styrene oxide | 20 grams | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | diethylether | 80 ml | C(C)OCC | C4H10O
solvent | Diethylether | 45 ml | C(C)OCC | C4H10O
product | 2-iodo-2-phenylethanol | Thirty-eight grams | IC(CO)C1=CC=CC=C1 | C8H9IO
